US07501386B2
Preparation of Phenyl-(1,2,3,4-tetrahydro-quinolin-6-yl)-amine
A solution of 20.4 grams of 6-anilinoquinoline (prepared as described in Buu-Hoi, Royer and Hubert-Habart, J. Chem. Soc., 1956, 2048-2051) in 400 mL of acetic acid containing 1.3 grams of platinum(IV) oxide was hydrogenated at 30 psi for 4.2 hours on a Parr low-pressure hydrogenator. The solution was filtered; and the filtrate was neutralized with 6N aqueous sodium hydroxide. The aqueous phase was extracted three times with dichloromethane. The combined dichloromethane layers were washed with 6N aqueous sodium hydroxide followed by brine. The dichloromethane layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to yield 20.4 grams of a dark residue. The dark residue was recrystallized from 95% ethanol to yield 15.2 grams of the desired product as a grey solid. 1H NMR (CDCl3) δ 7.2 (m, 2H), 6.8 (m, 4H), 6.45 (d, 1H), 5.35 (bs, 1H), 3.4 (bs, 1H), 3.25 (t, 2H), 2.75 (t, 2H), 1.95 (p, 2H).

reactant | 6-anilinoquinoline | 20.4 grams | N(C1=CC=CC=C1)C=1C=C2C=CC=NC2=CC1 | C15H12N2
solvent | acetic acid | 400 mL, 1.3 grams | C(C)(=O)O | C2H4O2
catalyst | platinum(IV) oxide | [Pt](=O)=O
product | Phenyl-(1,2,3,4-tetrahydro-quinolin-6-yl)-amine | 20.4 grams | C1(=CC=CC=C1)NC=1C=C2CCCNC2=CC1 | C15H16N2
